US04611056
Synthesis of 5,6-Dihydroxy-12H-benzo[a]phenothiazine-7,7-dioxide
To a suspension of 6-hydroxy-5H-benzo[a]phenothiazine-5-one-7,7-dioxide (430 mg) in water (10 cc) and ethyl acetate (10 ml) there was added sodium dithionite (1 g). The suspension was stirred vigorously at room temperature for 2 hours, then the insolubles were filtered and washed with water and ethyl acetate. There was obtained 346 mg of the title compound, m.p. 330° C.

reactant | 6-hydroxy-5H-benzo[a]phenothiazine-5-one-7,7-dioxide | 430 mg | OC=1C(C2=C(C3=NC4=CC=CC=C4S(C13)(=O)=O)C=CC=C2)=O | C16H9NO4S
reactant | sodium dithionite | 1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 10 cc | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5,6-Dihydroxy-12H-benzo[a]phenothiazine-7,7-dioxide | 346 mg | OC1=C2C(=C3NC4=CC=CC=C4S(C3=C1O)(=O)=O)C=CC=C2 | C16H11NO4S
